US07994171B2
tert-butyl 1(methoxy(methyl)carbamoyl)cyclopropylcarbamate.
To a solution of 1-(tert-butoxycarbonylamino)cyclopropanecarboxylic acid (11.00 g, 54.7 mmol, 1.0 eq) in methylene chloride at 0° C. was added N,O-dimethyl hydroxylamine HCl (5.9 g, 60.4 mmol, 1.1 eq), TEA (13.82 g, 13.6 mmol, 2.5 eq) and HATU (22.90 g, 60.2 mmol, 1.1 eq). The resulting reaction mixture was stirred at room temperature under an N2 atmosphere overnight. After TLC showed reaction was completed, the reaction mixture was concentrated, diluted with water and extracted with diethyl ether. The organic layer was washed with brine, dried over Na2SO4 and concentrated to get the desired product as a white solid. Yield: 13.00 g (97.52%).

reactant | 1-(tert-butoxycarbonylamino)cyclopropanecarboxylic acid | 54.7 mmol, 11.00 g, 1.0 eq | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)O | C9H15NO4
reactant | N,O-dimethyl hydroxylamine HCl | 60.4 mmol, 5.9 g, 1.1 eq | Cl.CNOC
reactant | HATU | 60.2 mmol, 22.90 g, 1.1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | tert-butyl 1(methoxy(methyl)carbamoyl)cyclopropylcarbamate | CON(C(=O)C1(CC1)NC(OC(C)(C)C)=O)C | C11H20N2O4
